US05569653
A suspension of 4-(1H-indazol-3-yl)piperazine (1.6 g, 7.9 mmol), N-(2-bromoethyl)phthalimide (2.1 g, 7.9 mmol), and sodium bicarbonate (0.7 g, 8.3 mmol) in acetonitrile (160 ml) was warmed to reflux for 24 hours. Upon cooling to room temperature, the reaction mixture was filtered through a pad of celite and the solids were washed with DCM. The combined filtrates were concentrated to give the N-[2-[4-(1H-indazol-3-yl)-1-piperazinyl]ethyl]phthalimide which was used without further purification.

reactant | 4-(1H-indazol-3-yl)piperazine | 7.9 mmol, 1.6 g | N1N=C(C2=CC=CC=C12)N1CCNCC1 | C11H14N4
reactant | N-(2-bromoethyl)phthalimide | 7.9 mmol, 2.1 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | sodium bicarbonate | 8.3 mmol, 0.7 g | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 160 ml | C(C)#N | C2H3N
product | N-[2-[4-(1H-indazol-3-yl)-1-piperazinyl]ethyl]phthalimide | N1N=C(C2=CC=CC=C12)N1CCN(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C21H21N5O2
